US04496564
A mixture of 3-cyanophenacyl chloride (1.78 g.) and amidinothiourea (1.2 g.) in EtOH (40 ml.) was heated under reflux for 1 hour. The solid precipitate was filtered off, dissolved in hot water (100 ml.) and the solution basified with sodium bicarbonate. The precipitated solid was filtered off and dried to give 3-[2-guanidinothiazol-4-yl]benzonitrile which was used without further purification.

reactant | 3-cyanophenacyl chloride | 1.78 g | C(#N)C=1C=C(C(CCl)=O)C=CC1 | C9H6ClNO
reactant | amidinothiourea | 1.2 g | C(N)(=N)NC(=S)N | C2H6N4S
solvent | EtOH | 40 ml | CCO | C2H6O
product | 3-[2-guanidinothiazol-4-yl]benzonitrile | N(C(=N)N)C=1SC=C(N1)C=1C=C(C#N)C=CC1 | C11H9N5S
